US05629295
(3β,5α,11β,12β,25R)-3-(t-butyldimethylsilyloxy)-12-acetoxyspirostan-11-ol
(3β,5α,11β,12β,25R)-3-(t-butyldimethylsilyloxy)spirostan-11,12-diol was selectively acetylated with acetic anhydride, pyridine and dimethylaminopydriine in methylene chloride to give the title compound.

reactant | (3β,5α,11β,12β,25R)-3-(t-butyldimethylsilyloxy)spirostan-11,12-diol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4([C@@H]([C@@H]([C@@H]3[C@]2(CC1)C)O)O)C | C33H58O5Si
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (3β,5α,11β,12β,25R)-3-(t-butyldimethylsilyloxy)-12-acetoxyspirostan-11-ol | [Si](C)(C)(C(C)(C)C)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4C[C@H]5[C@H]([C@H](C)[C@]6(O5)CC[C@@H](C)CO6)[C@]4([C@@H]([C@@H]([C@@H]3[C@]2(CC1)C)O)OC(C)=O)C | C35H60O6Si
